US06911467B2
(2S)-1-(S′-tert-Butyl-N′-(ethyloxycarbonyl)cysteinyl)pyrrolidine-2-carbonitrile
A solution of (2S)-1-(S′-tert-butylcysteinyl)pyrrolidine-2-carbonitrile trifluoroacetate (1000 mg, 0.27 mmol; prepared according to Jenkins et al., WO95/15309), ethylchloroformate (35 mg, 0.32 mmol) and triethylamine (50 mg, 0.50 mmol) in dichloromethane (25 ml) was stirred at room temperature for 18 hours. After this time the solvent was removed in vacuo and the residue was taken up in ethyl acetate (70 ml). This solution was washed with 0.3M KHSO4, sat. NaHCO3, water and brine, dried (Na2SO4) and evaporated. The residue was purified by flash chromatography (eluant EtOAc:Pet. Ether 60-80° C.; 8:2) yielding a white solid identified as the title compound (30 mg, 0.092 mmol, 35%).

reactant | (2S)-1-(S′-tert-butylcysteinyl)pyrrolidine-2-carbonitrile trifluoroacetate | 0.27 mmol, 1000 mg | FC(C(=O)O)(F)F.C(C)(C)(C)SC[C@H](N)C(=O)N1[C@@H](CCC1)C#N
reactant | ethylchloroformate | 0.32 mmol, 35 mg | C(C)OC(=O)Cl | C3H5ClO2
reactant | triethylamine | 0.50 mmol, 50 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (2S)-1-(S′-tert-Butyl-N′-(ethyloxycarbonyl)cysteinyl)pyrrolidine-2-carbonitrile | 0.092 mmol, 30 mg, 35% | C(C)(C)(C)SC[C@H](NC(=O)OCC)C(=O)N1[C@@H](CCC1)C#N | C15H25N3O3S
